Name:  ___.                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain 
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy, drainage of
intraabdominal abscess, repair of anastomosis, diverting loop
ileostomy, rigid sigmoidoscopy. placement of prevena vac

 
History of Present Illness:
Per Colorectal Consult Note:

HPI: ___ s/p open sigmoidectomy with end colostomy ___
___ for perforated sigmoid diverticulitis s/p open ___
reversal now here with abdominal pain and diarrhea. Per his
report he was discharged tolerating a regular diet and with some
abdominal pain, however ~1week ago he had increasing abdominal
pain as well as diarrhea. His diarrhea increased to 1 every ~2
hours. He denies any fevers/chills, chest pain, or shortenss of
breath. He denies any blood, any shortness of breath, or urinary
symptoms.

 
Past Medical History:
Past Medical History:
Stroke few years ago with some deficit in the Right eye vision.
No Motor deficits
h/o Hep C s/p post interferon therapy and ribavirin ___ year.  He
was treated by Dr. ___. undetectable viral load
per patient
h/o IVDA but has been in remission for past ___ years. Reports
using it ___ times after his stroke from few years ago but no
IVDA currently.

Past Surgical History:
Recently operated for end colostomy in ___ for perforated
diverticulitis with tentative reversal in ___
Liver Laceration with a trauma accident 
 
Social History:
___
Family History:
Family history
Mother- HTN
Father - DM

 
Physical Exam:
General: tolerating a regular diet, pain controlled, ileostomy 
with output
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain or shortness of breath
Abd: midline incision intact, JP drain intact

 
Pertinent Results:
___ 05:15AM BLOOD WBC-14.0* RBC-2.71* Hgb-7.8* Hct-24.0* 
MCV-89 MCH-28.8 MCHC-32.5 RDW-16.6* RDWSD-54.1* Plt ___
___ 05:31AM BLOOD WBC-15.6* RBC-2.67* Hgb-7.7* Hct-23.6* 
MCV-88 MCH-28.8 MCHC-32.6 RDW-16.5* RDWSD-53.1* Plt ___
___ 06:45AM BLOOD WBC-13.8* RBC-2.66* Hgb-7.7* Hct-23.1* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-15.9* RDWSD-50.8* Plt ___
___ 07:00AM BLOOD WBC-18.9* RBC-2.31* Hgb-6.8* Hct-20.1* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-15.8* RDWSD-50.3* Plt ___
___ 07:30AM BLOOD WBC-20.8* RBC-2.62* Hgb-7.6* Hct-22.6* 
MCV-86 MCH-29.0 MCHC-33.6 RDW-15.6* RDWSD-49.6* Plt ___
___ 07:40AM BLOOD WBC-26.3* RBC-3.16* Hgb-9.2* Hct-27.8*# 
MCV-88 MCH-29.1 MCHC-33.1 RDW-15.3 RDWSD-49.4* Plt ___
___ 09:50PM BLOOD WBC-26.7* RBC-4.20*# Hgb-12.0*# 
Hct-38.1*# MCV-91 MCH-28.6 MCHC-31.5* RDW-15.4 RDWSD-50.8* Plt 
___
___ 05:31AM BLOOD Glucose-104* UreaN-9 Creat-0.6 Na-142 
K-3.6 Cl-102 HCO3-29 AnGap-11
___ 06:45AM BLOOD Glucose-105* UreaN-4* Creat-0.7 Na-140 
K-3.4 Cl-102 HCO3-31 AnGap-7*
___ 07:30AM BLOOD Glucose-108* UreaN-7 Creat-0.7 Na-134 
K-3.6 Cl-99 HCO3-28 AnGap-11
___ 07:40AM BLOOD Glucose-81 UreaN-14 Creat-0.7 Na-134 
K-4.4 Cl-101 HCO3-22 AnGap-15
___ 09:50PM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-134 
K-5.1 Cl-102 HCO3-22 AnGap-15
___ 10:55AM BLOOD Glucose-103* UreaN-15 Creat-0.8 Na-132* 
K-5.2* Cl-95* HCO3-23 AnGap-19
___ 05:31AM BLOOD Calcium-7.7* Phos-3.0 Mg-2.0
___ 06:45AM BLOOD Calcium-7.8* Phos-3.6 Mg-2.3
___ 07:30AM BLOOD Calcium-7.5* Phos-3.3 Mg-2.0
___ 07:40AM BLOOD Calcium-7.7* Phos-5.0* Mg-1.9
___ 09:50PM BLOOD Calcium-8.1* Phos-4.5 Mg-2.0
___ 10:55AM BLOOD Albumin-2.6* Calcium-8.3* Phos-4.3 Mg-2.4

 CT ABD & PELVIS WITH CONTRAST Study Date of ___ 3:04 ___ 
IMPRESSION: 
  
  
1. Anastomotic leak in the pelvis with contrast seen in a large 
air and 
rectal-contrast containing collection measuring 6.3 x 1.8 x 9.2 
cm just 
superior to the bladder.  There are small locules of 
extraluminal air in the pelvis. 
2. At least seven fluid collections scattered throughout the 
abdomen with wall enhancement are concerning for multiple 
intra-abdominal abscesses.  These are described in detail above. 

3. Wall thickening of segments of the colon adjacent to these 
abscesses is 
most likely reactive. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the inpatient colorectal survice 
post-operatively. He had drains placed in the abdomen. We 
progressed him along the colorectal pathway. He was at time 
resistant to care. We managed his pain appropriately. He was 
treated with antibiotics. On ___ we removed the right JP 
drain, the left remained in place. We transitioned him to a 
regimen of oral antibiotics. On ___ when he was voiding, 
pain was controlled and he was tolerating  a diet, he was 
discharged home. The wound ostomy nurses followed him. He was 
sent home with nursing services.  
 
Medications on Admission:
MEDS: aspirin 81- stopped taking 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*24 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H Duration: 14 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*34 Tablet Refills:*0 
4.  Miconazole Powder 2% 1 Appl TP BID:PRN groin irritation 
please apply to groin area after showering until symptoms 
improved 
RX *miconazole nitrate [Anti-Fungal] 2 % apply to bilateral 
groins twice a day Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
do not drink alcohol or drive a car while taking this medication 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*45 Tablet Refills:*0 
6.Stoma Supplies
Ileosomy Supplies ___ pouch with 4 refills

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
 Anastomotic leak and abscesses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a Open coletomy and 
drain placement for surgical management of your Anastomotic leak 
and abscesses. ___ have recovered from this procedure well and 
___ are now ready to return home. ___ have tolerated a regular 
diet, passing gas and your pain is controlled with pain 
medications by mouth. ___ may return home to finish your 
recovery.  
 
Please monitor your bowel function closely. ___ have a new 
ileostomy. The most common complication from a new ileostomy 
placement is dehydration. The output from the stoma is stool 
from the small intestine and the water content is very high. The 
stool is no longer passing through the large intestine which is 
where the water from the stool is reabsorbed into the body and 
the stool becomes formed. ___ must measure your ileostomy output 
for the next few weeks. The output from the stoma should not be 
more than 1200cc or less than 500cc. If ___ find that your 
output has become too much or too little, please call the office 
for advice. The office nurse or nurse practitioner can recommend 
medications to increase or slow the ileostomy output. Keep 
yourself well hydrated, if ___ notice your ileostomy output 
increasing, take in more electrolyte drink such as Gatorade. 
Please monitor yourself for signs and symptoms of dehydration 
including: dizziness (especially upon standing), weakness, dry 
mouth, headache, or fatigue. If ___ notice these symptoms please 
call the office or return to the emergency room for evaluation 
if these symptoms are severe. ___ may eat a regular diet with 
your new ileostomy. However it is a good idea to avoid fatty or 
spicy foods and follow diet suggestions made to ___ by the 
ostomy nurses.  
 
Please monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.  

If ___ have any of the following symptoms please call the office 
for advice ___: 
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain 
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation  
inability to urinate

Incisions:
___ have a long vertical surgical incisions on your abdomen 
closed with staples. This is healing well however it is 
important that ___ monitor these areas for signs and symptoms of 
infection including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area.

___ will go home with a drain in place. Please monitor the 
output of this drain. Monitor for signs of infection: increased 
pain around the drain, drainage of green/white/yellow drainage, 
bleeding, increased pain. Please call. lease call if the drain 
falls out. Please apply a new dry sterile gauze sponge to the 
drain site daily. Clear around the drain daily. 

___ may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team. 

Pain
It is expected that ___ will have pain after surgery and this 
pain will gradually improved over the first week or so ___ are 
home. ___ will especially have pain when changing positions and 
with movement. ___ should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock and ___ 
may also take Advil (Ibuprofen) 600mg every hours for 7 days. 
Please do not take more than 3000mg of Tylenol in 24 hours or 
any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while or Tylenol. Please take 
Advil with food. If these medications are not controlling your 
pain to a point where ___ can ambulate and preform minor tasks, 
___ should take a dose of the narcotic pain medication _____. 
Please take this only if needed for pain. Do not take with any 
other sedating medications or alcohol. Do not drive a car if 
taking narcotic pain medications. 

Activity
___ may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. ___ may climb stairs. ___ may go outside and walk, but 
avoid traveling long distances until ___ speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear ___ for heavier exercise and activity as the observe 
your progress at your follow-up appointment. ___ should only 
drive a car on your own if ___ are off narcotic pain medications 
and feel as if your reaction time is back to normal so ___ can 
react appropriately while driving. 

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!  

 
Followup Instructions:
___